US05688803
4.0 g (18.7 mmol) of methyl 2-amino-5-fluoro-4-nitro-benzoate were dissolved in 250 ml of methanol and saturated with ammonia at -40° C. Subsequently, the mixture was stirred at room temperature overnight. The solution was concentrated and ther residue was triturated with methylene chloride. The precipitate was filtered off under suction and dried. 3.17 g (85%) of 2-amino-5-fluoro-4-nitro-benzamide were obtained as yellow crystals;

reactant | methyl 2-amino-5-fluoro-4-nitro-benzoate | 18.7 mmol, 4.0 g | NC1=C(C(=O)OC)C=C(C(=C1)[N+](=O)[O-])F | C8H7FN2O4
reactant | ammonia | N | H3N
solvent | methanol | 250 ml | CO | CH4O
product | 2-amino-5-fluoro-4-nitro-benzamide | 3.17 g, 85% | NC1=C(C(=O)N)C=C(C(=C1)[N+](=O)[O-])F | C7H6FN3O3
